US06420314B1
2-Chloro-4-fluoro-5-(3-fluoro-5-trifluoromethylpyridin-2-yl)phenol [Table 1, Ia. 249]
8.5 g (0.0263 mol) of 3-fluoro-2-(4-chloro-2-fluoro-5-methoxyphenyl)-5-trifluoromethylpyridine were added with stirring to 110 ml of 47% strength hydrobromic acid, and the mixture was refluxed for 2 h. After cooling, the clear solution was poured into 500 ml of water and extracted with methylene chloride. The organic phase was extracted with 1 N sodium hydroxide solution and the extract was acidified and extracted with ethyl acetate. Drying and concentration yielded 6.7 g (82.1% of theory) of the title compound of mp. 94-96° C.

reactant | 3-fluoro-2-(4-chloro-2-fluoro-5-methoxyphenyl)-5-trifluoromethylpyridine | 0.0263 mol, 8.5 g | FC=1C(=NC=C(C1)C(F)(F)F)C1=C(C=C(C(=C1)OC)Cl)F | C13H7ClF5NO
reactant | hydrobromic acid | Br | BrH
solvent | water | 500 ml | O | H2O
product | 2-Chloro-4-fluoro-5-(3-fluoro-5-trifluoromethylpyridin-2-yl)phenol | ClC1=C(C=C(C(=C1)F)C1=NC=C(C=C1F)C(F)(F)F)O | C12H5ClF5NO
